US08492582B2
To a methanol (8.0 mL) solution of the obtained tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate, 10% palladium-carbon (0.75 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 5 hours. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 1.2 g of tert-butyl 2-(2-hydroxy-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)C | C38H43N3O5
catalyst | palladium-carbon | 0.75 g | [C].[Pd]
solvent | methanol | 8.0 mL | CO | CH4O
product | tert-butyl 2-(2-hydroxy-5-(2-(4-methylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 1.2 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)C | C31H37N3O5
